US07122666B2
2(ii)′ (2R8aS)-2-(t-Butyldimethylsilyloxy)-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
1.70 g (24.9 mmol) of imidazole and 1.88 g (12.5 mmol) of t-butyldimethylsilyl chloride were added to a solution of 1.30 g (8.1 mmol) of (2R,8aS)-2-hydroxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one [obtained as described in Preparative Example 2(i)′ above] in 30 ml of dichloromethane and the resulting mixture was stirred for 20 hours at room temperature. At the end of this time, water was added and the reaction mixture was extracted with dichloromethane. The organic extract was washed with water and concentrated by evaporation under reduced pressure, and the resulting residue was then purified by chromatography on an alumina column using a 9:1 by volume mixture of hexane and ethyl acetate as the elaunt to afford 1.98 g (yield: 88%) of the title compound as a colorless oil.

reactant | imidazole | 24.9 mmol, 1.70 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 12.5 mmol, 1.88 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (2R,8aS)-2-hydroxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 8.1 mmol, 1.30 g | O[C@@H]1C[C@H]2CC(CCN2C1)=O | C8H13NO2
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (2R8aS)-2-(t-Butyldimethylsilyloxy)-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 1.98 g, yield: 88% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H]2CC(CCN2C1)=O | C14H27NO2Si
